US08486946B2
Step 2: Preparation of ethyl-8-chloro-1-(4-iodobenzyl)-4-thioxo-1,4-dihydrocinnoline-3-carboxylate
Ethyl-8-chloro-1-(4-iodobenzyl)-4-oxo-1,4-dihydrocinnoline-3-carboxylate (736 mg, 1.57 mmol) and Lawesson's Reagent (445 mg, 1.10 mmol, 0.7 equiv) were combined in toluene (8 mL) and placed into an oil bath preheated at 105° C. for 15 minutes. The mixture was cooled to ambient temperature, concentrated in vacuo and the residue was purified by silica gel gradient chromatography (100:0 to 40:60; hexanes:ethyl acetate), providing the titled compound.

reactant | Ethyl-8-chloro-1-(4-iodobenzyl)-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 1.57 mmol, 736 mg | C(C)OC(=O)C1=NN(C2=C(C=CC=C2C1=O)Cl)CC1=CC=C(C=C1)I | C18H14ClIN2O3
reactant | Lawesson's Reagent | 1.10 mmol, 445 mg, 0.7 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl-8-chloro-1-(4-iodobenzyl)-4-thioxo-1,4-dihydrocinnoline-3-carboxylate | C(C)OC(=O)C1=NN(C2=C(C=CC=C2C1=S)Cl)CC1=CC=C(C=C1)I | C18H14ClIN2O2S
